US06914074B2
1-Chloro-8-fluoro-6-(4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 1-chloro-8-fluoro-6-(4-methoxyphenyl)-2-naphthol (0.14 g, 0.46 mmol) with boron tribromide (0.69 mL of 1N solution, 0.69 mmol) according to method D to yield 0.050 g (38%) of a white solid mp 174-176° C.; 1H NMR (DMSO-d6): δ 6.88 (2H, d, J=8.62 Hz), 7.33 (1H, d, J=8.92 Hz), 7.60-7.67 (3H, m), 7.86 (1H, dd, J=1.43 Hz, J=9.02 Hz), 7.95 (1H, d, J=1.37 Hz), 9.68 (1H, s), 10.59 (1H, s); MS (ESI) m/z 287/289 (M−H)−.

reactant | 1-chloro-8-fluoro-6-(4-methoxyphenyl)-2-naphthol | 0.46 mmol, 0.14 g | ClC1=C(C=CC2=CC(=CC(=C12)F)C1=CC=C(C=C1)OC)O | C17H12ClFO2
reactant | boron tribromide | 0.69 mmol, 1N, 0.69 mL | B(Br)(Br)Br | BBr3
product | 1-Chloro-8-fluoro-6-(4-hydroxyphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC(=C12)F)C1=CC=C(C=C1)O)O | C16H10ClFO2
